US04720500
The procedure is analogous to that described in Example 11, but starting with 3-bromobenzoic acid (4 g), N,N'-carbonyldiimidazole (3.2 g) and 2-amino-7-(3-methoxyphenyl)-1,8-naphthyridine (3.5 g). The product obtained by precipitation in water (4 g; m.p. approximately 90° C.) is dissolved in boiling acetonitrile (200 cc). After cooling for 3 hours at 4° C., the crystallized solid is separated by filtration, washed with acetonitrile (3×3 cc) and dried at 35° C. under reduced pressure (0.07 kPa). N-[7-(3-Methoxyphenyl)-1,8-naphthyridin-2-yl]-3-bromobenzamide (0.8 g), m.p. 104° C., is obtained.

reactant | 3-bromobenzoic acid | 4 g | BrC=1C=C(C(=O)O)C=CC1 | C7H5BrO2
reactant | 2-amino-7-(3-methoxyphenyl)-1,8-naphthyridine | 3.5 g | NC1=NC2=NC(=CC=C2C=C1)C1=CC(=CC=C1)OC | C15H13N3O
reactant | acetonitrile | 200 cc | C(C)#N | C2H3N
solvent | water | 4 g | O | H2O
product | N-[7-(3-Methoxyphenyl)-1,8-naphthyridin-2-yl]-3-bromobenzamide | 0.8 g | COC=1C=C(C=CC1)C1=CC=C2C=CC(=NC2=N1)NC(C1=CC(=CC=C1)Br)=O | C22H16BrN3O2
